US08048902B2
2′,3′-Difluoroacetophenone (0.337 g, 2.16 mmol) in methanol (15 mL) was treated with sodium borohydride (0.090 g, 2.37 mmol), and the reaction was stirred at room temperature for 30 minutes. The mixture was partitioned between dichloromethane and water, and the organic layer was separated, dried over MgSO4, filtered, and concentrated to give 1-(2,3-difluoro-phenyl)-ethanol.

reactant | 2′,3′-Difluoroacetophenone | 2.16 mmol, 0.337 g | FC1=C(C=CC=C1F)C(C)=O | C8H6F2O
reactant | sodium borohydride | 2.37 mmol, 0.090 g | [BH4-].[Na+]
solvent | methanol | 15 mL | CO | CH4O
product | 1-(2,3-difluoro-phenyl)-ethanol | FC1=C(C=CC=C1F)C(C)O | C8H8F2O
